US04990531
Stage A: (4-morpholinophenylsulphonylamino)butyric acid.
10 g of 4-morpholinobenzenesulphonyl chloride is added to a solution comprising 3.94 g of 4-amino butyric acid and 4.6 g of sodium hydroxide in 80 cm3 of water, then 70 cm3 of tetrahydrofuran is added so as to obtian a solution. The temperature increases from 20° to 27° C. The solution is allowed to return to ambient temperature and maintained under agitation for 24 hours, after which it is acidified with acetic acid, and the solvent is evaporated under reduced pressure. The residue is taken up with 50 cm3 of distilled water; the precipitate is filtered off, washed with water, dried and 7.6 g of expected product is obtained, m.p.=163°-165° C., which is recrystallized from ethyl acetate.

reactant | 4-morpholinobenzenesulphonyl chloride | 10 g | O1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H12ClNO3S
reactant | 4-amino butyric acid | 3.94 g | NCCCC(=O)O | C4H9NO2
reactant | sodium hydroxide | 4.6 g | [OH-].[Na+]
reactant | tetrahydrofuran | 70 cm3 | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 80 cm3 | O | H2O
product | (4-morpholinophenylsulphonylamino)butyric acid | 7.6 g | O1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC | C14H20N2O5S
